datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])([H:10])[H:17])[H:9])([H:7])[H:8],2.80328
[I:0][H:1].[O:2]>>[H:1][O:2].[I:0],4.9
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6][H:10])[H:12])[H:11])([H:7])([H:8])[H:9],123.428
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20])[H:8])([H:6])[H:7],40.9195
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])[H:13])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([H:14])[H:15])[H:13])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:12])([H:9])([H:10])[H:11].[O:4][O:5][H:16],62.76
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20],74.0568
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([H:8])[H:9]>>[C:0](#[C:1][C:2]([H:5])([H:6])[C:7]([H:4])([H:8])[H:9])[H:3],-2.974824
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],173.678
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[H:12][H:13]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:13])[H:7])([H:5])[H:6].[H:12],127.612
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14](=[C:13]([H:17])[H:18])[C:15](=[C:16]([H:20])[H:21])[H:19],20.0832
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])([H:9])[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20],44.2249
[C:4]([H:5])([H:6])[H:7].[N:0]([H:1])([H:2])[H:3]>>[H:1][C:4]([H:5])([H:6])[H:7].[N:0]([H:2])[H:3],86.9142
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[S:4][H:9])[H:5].[C:10]([C:11]([S:12][H:19])([C:13](=[S:14])[H:20])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([S:4][H:9])[H:18])[H:5].[C:10]([C:11]([S:12][H:19])[C:13](=[S:14])[H:20])([H:15])([H:16])[H:17],7.5312
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:25])([H:26])[H:27])=[C:14]([C:15]([H:28])([H:29])[H:30])[c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:14]([C:12]([C:11]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27])([C:15]([H:28])([H:29])[H:30])[c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:6])([H:4])[H:5],63.1366
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20][C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[C:20](=[C:19]([H:22])[H:23])[C:21]([H:24])([H:25])[H:26],0.29288
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]([C:9](=[C:10]([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0]1([H:3])=[C:1]([C:2]([H:4])([H:5])[H:6])[C:10]([H:15])([H:16])[C:9]([H:14])=[C:8]([H:13])[C:7]1([H:11])[H:12],117.57
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:22]([H:23])([H:24])[H:25])([H:10])([H:11])[H:12],32.8026
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14])([H:3])[H:4],57.781
